Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Compazine / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
lymphoma
 
Major Surgical or Invasive Procedure:
___ placement

 
History of Present Illness:
___ year old female with aggressive B cell
lymphoma with features of DLBCL and Burkitts and involvement of
the liver and pancreas. Patient s/p cycle6 of da-EPOCH,
dose level 3, and is s/p C2 R-ICE. The plan is for
autologous stem cell transplant if her disease can be 
controlled.
Her sister is not a match, but her brother is now willing to be
typed.

 
Past Medical History:
PAST HEMATOLOGIC HISTORY:  
- ___ CT A/P revealing: Large mass involving the pancreatic 
tail with large cystic central portion, which invades the 
spleen. Several liver ill-defined liver lesions are visualized, 
suggestive of metastatic disease
- ___ EUS with FNA revealed: large, heterogenous and 
ill-defined mass was seen of the pancreatic tail measuring at 
least 5.03cm. Left lobe of the liver revealed two large 
hypoehoic liver lesions concerning for metastatic disease
- ___ FNA biopsies revealed: Atypical lymphoid population 
with necrosis
Final dx: high grade B cell lymphoma, features intermediate 
between large B cell lymphoma and Burkitt lymphoma, Bcl-6 and 
CD10 pos, Ki-67 >95%, C-MYC 80% pos. 
PET scans reveal residual disease going into cycle 6, therefore 
planned R-ICE at next admit, with auto or allo 

Chemotherapy:
C1 da-EPOCH-R dose level 1 ___
C2 da-EPOCH-R dose level 1 ___
C3 da-EPOCH-R dose level 1 ___
C4 da-EPOCH-R dose level 1 ___
C5 da-EPOCH-R dose level 2 ___
C6 da-EPOCH-R dose level 3 ___
C1 R-ICE ___

PAST MEDICAL/SURGICAL HISTORY:  
- Schizophrenia, previously on clozaril and currently on haldol. 
Lives in the community by herself with help from family.
- Glucose Intolerance
- Mesenteric venous thrombosis
- splenic infarcts and microabscess
- chronic cough
- History of rheumatic fever
- Status-post tubal ligation
 
Social History:
___
Family History:
- Mother with carcinoid, uterine cancer 
- Father died of metastatic cancer
 
Physical Exam:
Tmax 98.8 now 98.0 BP 82/50 HR 67 spO2 96%RA
admit weight: 143.3 current weight: 145.2 I: 2L O: 1.0 1BM

Physical Exam:
Gen: WDWN NAD A&Ox4
HEENT: oropharynx moist no lesions
neck: supple
CV: RRR no m/r/g
LS: CTA
Abd: soft NT -HSM +BS
Extr: no edema
Skin: no rash
Neuro: nonfocal
M/S ___ equal strength ___
Access: L PICC c/d/i

 
Pertinent Results:
___ 12:01AM BLOOD WBC-4.8# RBC-2.83* Hgb-8.2* Hct-25.4* 
MCV-90 MCH-29.0 MCHC-32.3 RDW-17.1* Plt Ct-99*
___ 12:30PM BLOOD WBC-1.7* RBC-2.89* Hgb-8.2* Hct-25.0* 
MCV-87 MCH-28.3 MCHC-32.7 RDW-16.7* Plt ___
___ 12:01AM BLOOD Neuts-93.8* Lymphs-3.6* Monos-1.5* 
Eos-1.0 Baso-0.1
___ 12:30PM BLOOD Neuts-85.5* Lymphs-6.3* Monos-5.7 Eos-1.4 
Baso-1.1
___ 12:01AM BLOOD Glucose-147* UreaN-10 Creat-0.4 Na-134 
K-3.7 Cl-100 HCO3-26 AnGap-12
___ 12:01AM BLOOD ALT-26 AST-27 LD(LDH)-176 AlkPhos-121* 
TotBili-0.4
___ 12:30PM BLOOD ALT-28 AST-26 LD(LDH)-149 AlkPhos-125* 
TotBili-0.5
___ 12:01AM BLOOD Albumin-3.7 Calcium-8.6 Phos-2.7 Mg-2.0
___ 12:30PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.1 Mg-1.___ year old female with aggressive B cell
lymphoma with features of DLBCL and Burkitts and involvement of
the liver and pancreas. Patient s/p cycle6 of da-EPOCH,
dose level 3, and is end-cycle C2 R-ICE. The plan is for
autologous stem cell transplant if her disease can be 
controlled.
Her sister is not a match, but her brother is now willing to be
typed.

C2D6 RICE

# lymphoma: CT scans are grossly unchanged, although, concern
re:recent splenic tenderness (___) and recurring
splenomegaly.

# vancomycin extravasation: resolved

#Fever: unclear etiology. FN on admission. blood/urine cx neg to
date. question secondary to disease?
-Stopped doxycycline at admit. 
-started cefe/vanc at admit, d/c'd ___.
-started ___ secondary to abd pain and persistent spikes on 
___,
no longer neutropenic. 
-added vanc on ___ due to persistent spikes, vanc trough low,
increased dose ___.
-Place PICC despite fevers in < 24h
-IgG 492
-plan to continue ertapenem/vanco indefinately through this
cycle. Will explore home infusional services. Vanco currently at
BID dosing, will check trough ___ ___.
-switch to ertapenem prior to d/c on ___ AM for ___

#Abd pain. currently resolved-CT scan of torso, chest non acute
small pleural effusion and small LNs to monitor yearly. CT abd
persistent disease ___. 

#lumbago: improved on lidoderm initially, worsened with activity
yesterday. Lumbar MRI new L1 compression fx, pain management 
with
lidoderm oxy prn.

# cough: improved.  likely allergic rhinitis. has seen ENT/pulm.
cough gets better with chemotherapy and associated steroids.
Viral resp swabs neg. Continue montelukast, rhinocort, 
combivent,
anti-allergy medication (uses zyrtec at home, allegra ordered
here), tessalon perles, robitussin a-c.

# Mesenteric vein thrombus. Lovenox 60mg BID until plt < 50k,
then daily dosing. 

# Splenic infarction: During prior ___ ___ 
admission, patient was found to have splenic infarcation due to 
progression of known hepatosplenic thrombotic phenomenon for 
which her Lovenox was converted to BID dosing. 

# Schizophrenia: Symptoms currently controlled with haldol 10mg
daily, klonopin 1mg QHS, sertraline 100mg daily. Sister is
caregiver and will help her outpatient once discharged. Follows
with outpt psychiatrist.

# Hypothyroidism: continue levothyroxine.  

# Overactive bladder. To continue tolterodine 2mg BID in house 
as prior. Using long acting prep at home, unavailable here.

# Prophylaxis: 
-viral: acyclovir 
-PCP: atovaquone

# F/E/N: replace electrolytes prn. IVF as ordered.
# Access: L PICC
# code status: Full
# dispo: home, f/u outpatient ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. ClonazePAM 0.5 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Doxycycline Hyclate 100 mg PO Q12H 
6. Haloperidol 10 mg PO DAILY 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Montelukast 10 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Senna 8.6 mg PO BID 
11. Sertraline 100 mg PO DAILY 
12. Simethicone 40-80 mg PO QID:PRN bloating/gas 
13. Cetirizine 10 mg oral daily 
14. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
15. Tolterodine 4 mg PO DAILY 
16. Filgrastim 300 mcg SC Q24H 
17. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
18. Enoxaparin Sodium 60 mg SC DAILY 
19. Maalox/Diphenhydramine/Lidocaine 30 mL PO QID 

 
Discharge Medications:
1. Vancomycin 1250 mg IV Q 12H 
RX *vancomycin 500 mg 2.5 tabs IV twice a day Disp #*120 Vial 
Refills:*0
2. ertapenem 1 gram injection daily Duration: 4 Weeks 
RX *ertapenem [Invanz] 1 gram 1 gram IV daily Disp #*30 Vial 
Refills:*0
3. Acyclovir 400 mg PO Q8H 
4. Atovaquone Suspension 1500 mg PO DAILY 
5. ClonazePAM 0.5 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Filgrastim 300 mcg SC Q24H 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
9. Haloperidol 10 mg PO DAILY 
10. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
11. Levothyroxine Sodium 50 mcg PO DAILY 
12. Maalox/Diphenhydramine/Lidocaine 30 mL PO QID 
13. Montelukast 10 mg PO DAILY 
14. Pantoprazole 40 mg PO Q24H 
15. Senna 8.6 mg PO BID 
16. Sertraline 100 mg PO DAILY 
17. Simethicone 40-80 mg PO QID:PRN bloating/gas 
18. Tolterodine 4 mg PO DAILY 
19. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidoderm] 5 % (700 mg/patch) 1 patch every 12 
hours daily Disp #*30 Patch Refills:*0
20. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*180 Tablet Refills:*0
21. Cetirizine 10 mg oral daily 
22. Enoxaparin Sodium 60 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to receive chemotherapy. You tolerated this 
well. You will continue two antibiotics at home and ___ will be 
visiting you to help you with your line care and antibiotic 
treatment. You will follow up in clinic twice weekly, your next 
follow up is next ___ as stated below. Please do not 
hesitate to call in the interm with any questions or concerns, 
especially if you develop fevers.
 
Followup Instructions:
___